US06399613B1
A solution of 490 mg of 2,5-dimethoxycarbonylpyrazine and 0.40 cm3 of 3-amino-1,2-propanediol in 5 cm3 of ethanol is heated at a temperature in the region of the reflux temperature for 3 hours. The reaction mixture is filtered while hot. The white solid is washed with 3 times 15 cm3 of boiling ethanol. 416 mg of N,N′-bis(2,3-dihydroxy-1-propyl)pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 234° C. [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): from 3.20 to 3.60 (mt, 8H: 2×OCH2 and 2×NCH2); 3.68 (mt, 2H: 2×OCH); 4.67 (t, J=5.5 Hz, 2H: OH at 2γ and OH at 5γ); 4.95 (d, J=5 Hz, 2H: OH at 2β and OH at 5β); 8.79 (t, J=5.5 Hz, 2H: 2×CONH); 9.23 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 490 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | 3-amino-1,2-propanediol | 0.40 cm3 | NCC(CO)O | C3H9NO2
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
product | N,N′-bis(2,3-dihydroxy-1-propyl)pyrazine-2,5-dicarboxamide | 416 mg | OC(CNC(=O)C1=NC=C(N=C1)C(=O)NCC(CO)O)CO | C12H18N4O6
